US06469003B1
Pentan-2,3,4-trione 3-(3-chlorophenylhydrazone) (2.39 g) was added to a suspension of 66% sodium hydride (0.77 g) in anhydrous tetrahydrofuran (40 ml) under ice cooling, followed by stirring at room temperature for 30 minutes. Then, a solution of 2-thiopheneacetyl chloride (1.77 g) in anhydrous tetrahydrofuran (10 ml) was added dropwise under ice cooling, followed by stirring at room temperature for 2 hours. The reaction mixture was poured into water and extracted with ethyl acetate. After washing with water and a brine, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, the resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4), and the resulting crude crystals were washed with hexane to obtain 6-acetyl-2-(3-chlorophenyl)-5-methyl-4-(2-thienyl)-3(2H)-pyridazinone (2.19 g) (Compound No. 1-97).

reactant | Pentan-2,3,4-trione 3-(3-chlorophenylhydrazone) | 2.39 g | ClC=1C=C(C=CC1)NN=C(C(C)=O)C(C)=O | C11H11ClN2O2
reactant | sodium hydride | 0.77 g | [H-].[Na+]
reactant | 2-thiopheneacetyl chloride | 1.77 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-acetyl-2-(3-chlorophenyl)-5-methyl-4-(2-thienyl)-3(2H)-pyridazinone | 2.19 g | C(C)(=O)C=1C(=C(C(N(N1)C1=CC(=CC=C1)Cl)=O)C=1SC=CC1)C | C17H13ClN2O2S
